US08790621B2
4-(Dodecyloxy)benzyl bromide.
A solution of PBr3 (2.0 mL, 20 mmol) in anhydrous CH2Cl2 (25 mL) was added slowly to a stirred solution of 4-(dodecyloxy)benzyl alcohol (3.0 g, 10 mmol) in CH2Cl2 (50 mL) at 0° C. The reaction mixture was stirred for 3 h at room temperature and slowly poured into a large amount of water (ca. 600 mL). The product was extracted with CHCl3 (3×50 mL). The combined organic phase was washed with brine (3×20 mL), dried over anhydrous Na2 SO4, and concentrated in vacuo to give a yellow solid (3.01 g, 90%). 1H NMR (300 MHz, CDCl3, δ): 7.32 (d, J=6.6 Hz, 2H), 6.86 (d, J=6.6 Hz, 2H), 4.50 (s, 2H), 3.97 (t, J=6.6 Hz, 2H), 4.05-4.00 (m, 6H), 1.79-1.72 (m, 2H), 1.45-1.21 (m, 12H), 0.90 (t, J=6.3 Hz, 3H).

reactant | PBr3 | 20 mmol, 2.0 mL | P(Br)(Br)Br | Br3P
reactant | 4-(dodecyloxy)benzyl alcohol | 10 mmol, 3.0 g | C(CCCCCCCCCCC)OC1=CC=C(CO)C=C1 | C19H32O2
reactant | water | ca. 600 mL | O | H2O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(Dodecyloxy)benzyl bromide | 3.01 g, 90% | C(CCCCCCCCCCC)OC1=CC=C(CBr)C=C1 | C19H31BrO
